US09315530B2
Step 3: diethyl (3-(2-(4-((2-amino-4-hydroxy-6-methylpyrimidin-5-yl)methyl)-3-methoxyphenoxy)ethoxy)-1,1-difluoropropyl)phosphonate
To a solution of (E)-ethyl 2-(4-(2-(3-(diethoxyphosphoryl)-3,3-difluoropropoxy)ethoxy)-2-methoxybenzylidene)-3-oxobutanoate (1 equiv.) in MeOH (0.20 M) was added guanidine carbonate (1.1 equiv.) and the reaction mixture was heated to 80° C. for 3 h. At this point the reaction mixture was allowed to cool to room temperature and it was then diluted with water and EtOAc. The resulting mixture was transferred to a separatory funnel and washed with EtOAc three times. The combined organic layers were dried over anhydrous Na2SO4 and the volatiles were removed in vacuo. The resulting residue was purified by a COMBIFLASH™ system using a gradient of 0-10% MeOH/DCM to provide the title compound (15%) as a solid.

reactant | (E)-ethyl 2-(4-(2-(3-(diethoxyphosphoryl)-3,3-difluoropropoxy)ethoxy)-2-methoxybenzylidene)-3-oxobutanoate | 1 equiv. | C(C)OP(=O)(OCC)C(CCOCCOC1=CC(=C(\C=C(\C(=O)OCC)/C(C)=O)C=C1)OC)(F)F | C23H33F2O9P
reactant | guanidine carbonate | 1.1 equiv. | C(O)(O)=O.NC(=N)N
solvent | MeOH | 0.20 M | CO | CH4O
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | diethyl (3-(2-(4-((2-amino-4-hydroxy-6-methylpyrimidin-5-yl)methyl)-3-methoxyphenoxy)ethoxy)-1,1-difluoropropyl)phosphonate | 15% | NC1=NC(=C(C(=N1)O)CC1=C(C=C(OCCOCCC(F)(F)P(OCC)(OCC)=O)C=C1)OC)C | C22H32F2N3O7P
